US04698445
p-Nitrobenzenesulfonyl chloride was reacted with N,N',N'-triisopropyl ethylene diamine to obtain the free base of N-[2-[bis(1-methylethyl)amino]ethyl]-N-(1-methylethyl)-4-nitrobenzene sulfonamide as a yellow solid, m.r. 98°-100° C.

reactant | p-Nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N,N',N'-triisopropyl ethylene diamine | C(C)(C)NCCN(C(C)C)C(C)C | C11H26N2
product | N-[2-[bis(1-methylethyl)amino]ethyl]-N-(1-methylethyl)-4-nitrobenzene sulfonamide | CC(C)N(CCN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C(C)C)C(C)C | C17H29N3O4S
